US07612114B2
Synthesized from 2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine (451 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine (423 mg). This compound (421 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (355 mg).

reactant | 2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine | COC=1C=C2CC(C(=CC2=CC1)C1=C(C=CC=C1)N)(C)C | C19H21NO
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine | 451 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC=C2)C2=CC3=CC=C(C=C3CC2(C)C)OC)C=C1 | C34H42N2O2
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine | 423 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC=C2)C2=CC3=CC=C(C=C3CC2(C)C)OC)CC)C=C1 | C36H46N2O2
